US07476688B2
(Step 3) 4-Propyl-2-pyrrolidinone
Platinum oxide (0.4 g) was added to a solution of methyl 3-(nitromethyl)hexanoate (3.64 g, 19.2 mmol) in ethanol (20 ml) was added and the mixture was stirred at room temperature for 18 hours under a hydrogen stream. The reaction mixture was filtered through celite, and then the solvent of the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate, ethyl acetate: methanol) to yield the title compound (1.63 g) as a light yellow oil. 1H-NMR (CDCl3) δ(ppm) 0.92 (3H, t, J=7.2 Hz), 1.27-1.53 (4H, m), 1.93-2.05 (1H, m), 2.37-2.53 (2H, m), 3.01 (1H, dd, J=9.2 Hz, 6.4 Hz), 3.48 (1H, dd, J=9.2 Hz, 9.2 Hz), 5.67-5.97 (1H, m)

reactant | methyl 3-(nitromethyl)hexanoate | 19.2 mmol, 3.64 g | [N+](=O)([O-])CC(CC(=O)OC)CCC | C8H15NO4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Platinum oxide | 0.4 g | [Pt]=O
product | 4-Propyl-2-pyrrolidinone | 1.63 g | C(CC)C1CC(NC1)=O | C7H13NO
